US05830920
A solution of 32.14 g benzyl 2-benzyloxycarbonylamino-2-desoxy-6-O-(p-tolylsulfonyl)-a-D-glucopyranoside in 75 ml of dimethyl sulfoxide was treated at room temperature with 7.5 g of sodium azide and stirred at 90° C. for 3 hours. The mixture was then poured on to ice/water. Separated crystals were filtered off under suction, washed with water and dried. There was obtained benzyl 6-azido-2-benzyloxycarbonylamino-2,6-didesoxy-a-D-glucopyranoside, [a]+119.60° (c 0.5; dioxan), MS: m/z 428 ([M+H]+).

reactant | benzyl 2-benzyloxycarbonylamino-2-desoxy-6-O-(p-tolylsulfonyl)-a-D-glucopyranoside | 32.14 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)COS(=O)(=O)C1=CC=C(C=C1)C | C28H31NO9S
reactant | sodium azide | 7.5 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 75 ml | CS(=O)C | C2H6OS
product | benzyl 6-azido-2-benzyloxycarbonylamino-2,6-didesoxy-a-D-glucopyranoside | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OCC2=CC=CC=C2)O1)NC(=O)OCC1=CC=CC=C1)O)O | C21H24N4O6
